US07498338B2
N-{2-[(2S)-Oxiran-2-ylmethoxy]benzyl}acetamide
A mixture of N-(2-hydroxybenzyl)acetamide (382 mg, 2.31 mmol), (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate (599 mg, 2.31 mmol) and Cs2CO3 (901 mg, 2.77 mmol) in DMP (5 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and H2O. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-80% ethyl acetate in petroleum spirit) to give the subtitled compound (333 mg).

reactant | N-(2-hydroxybenzyl)acetamide | 2.31 mmol, 382 mg | OC1=C(CNC(C)=O)C=CC=C1 | C9H11NO2
reactant | (2S)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate | 2.31 mmol, 599 mg | O1[C@@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | Cs2CO3 | 2.77 mmol, 901 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
product | N-{2-[(2S)-Oxiran-2-ylmethoxy]benzyl}acetamide | 333 mg | O1[C@@H](C1)COC1=C(CNC(C)=O)C=CC=C1 | C12H15NO3
